US07569578B2
To a solution of 1-(methoxycarbonyl)-2-(2-((2-(trimethylsilyl)ethoxy)methyl)-7-methyl-2H-indazol-5-yl)ethyl 4-nitrophenyl carbonate (0.859 mmol) was added 3-(piperidin-4-yl)quinolin-2(1H)-one-hydrochloride (682 mg, 2.58 mmol), in one portion, followed by dropwise addition of diisopropylethylamine (0.37 mL, 2.15 mmol) at room temperature. The resulting yellow suspension was stirred at room temperature overnight. The mixture was extracted with ethyl acetate (2×2 mL) and the organic phase was washed with brine and dried over sodium sulfate. The crude product was purified using preparative HPLC to afford (R)-1-methoxy-3-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-oxopropan-2-yl 4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxylate (157 mg, 30%). Mass spec. 619.24 (MH+). 1H-NMR (CDCl3, 400 MHz) δ 8.0 (s, 1H), 7.53 (br s, 2H), 7.47-7.43 (m, 1H), 7.34-7.31 (m, 1H), 7.21-7.18 (m, 1H), 6.96 (s, 1H), 5.7 (s, 2H), 5.23 (dd, J=8.6, 4.6 Hz, 1H), 4.28 (br s, 2H), 3.74 (s, 3H), 3.61 (m, 2H), 3.13 (m, 3H), 2.93 (m, 2H), 2.59 (s, 3H), 1.94 (m, 2H), 0.92 (m, 2H), −0.064 (s, 9H).

reactant | 1-(methoxycarbonyl)-2-(2-((2-(trimethylsilyl)ethoxy)methyl)-7-methyl-2H-indazol-5-yl)ethyl 4-nitrophenyl carbonate | 0.859 mmol | C(OC(CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C)C(=O)OC)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C25H31N3O8Si
reactant | 3-(piperidin-4-yl)quinolin-2(1H)-one-hydrochloride | 2.58 mmol, 682 mg | Cl.N1CCC(CC1)C=1C(NC2=CC=CC=C2C1)=O
reactant | diisopropylethylamine | 2.15 mmol, 0.37 mL | C(C)(C)N(CC)C(C)C | C8H19N
product | (R)-1-methoxy-3-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-oxopropan-2-yl 4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxylate | 157 mg, 30% | O=C1NC2=CC=CC=C2C=C1C1CCN(CC1)C(=O)O[C@@H](C(=O)OC)CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C | C33H42N4O6Si
